US07939531B2
Toluene was added to a mixture of 1-[2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.250 g, 0.606 mmol), 2,3-Dihydro-isoindol-1-one (0.097 g, 0.727 mmol), copper iodide (11.6 mg, 0.061 mmol), and potassium carbonate (0.168 g, 1.212 mmol) under argon. Dimethyl ethylenediamine (0.013 mL; 0.011 g, 0.121 mmol) was subsequently added and the reaction was stirred for 16 h at 110° C. The reaction was diluted with ethyl acetate and filtered through a silica plug before being concentrated in vacuo. Silica gel chromatography (0->25% EtOAc/hexanes over 30 minutes) afforded 0.2206 g (78% yield) of 2-[7-(2,2-Dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-2,3-dihydro-isoindol-1-one. MS (E/I): 465 (M+H)

reactant | 1-[2-Bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.606 mmol, 0.250 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | 2,3-Dihydro-isoindol-1-one | 0.727 mmol, 0.097 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | potassium carbonate | 1.212 mmol, 0.168 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl ethylenediamine | 0.121 mmol, 0.013 mL, 0.011 g | CNCCNC | C4H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.061 mmol, 11.6 mg | [Cu](I)I
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[7-(2,2-Dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-2,3-dihydro-isoindol-1-one | 0.2206 g, 78% yield | CC(C(=O)C1=CN(C2=NC=C(N=C21)N2C(C1=CC=CC=C1C2)=O)COCC[Si](C)(C)C)(C)C | C25H32N4O3Si
